US08097628B2
(ii) Title compound: (1R)-1-[(4-{[(5-Chloro-6-methyl-3-pyridinyl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A solution of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (63.3 mg, 0.170 mmol) and Et3N (0.022 ml, 0.154 mmol) in CHCl3 (3 ml) was stirred at room temperature for 15 min then 5-chloro-6-methyl-3-pyridinecarbaldehyde (for a synthesis see WO20006/137485 A1 Example 256) (24 mg, 0.154 mmol) was added. The resulting reaction mixture was stirred at room temperature for 1 h then NaBH(OAc)3 (98 mg, 0.463 mmol) was added and the mixture was stirred at room temperature overnight. The reaction was monitored by LCMS and when full conversion was observed, it was quenched with 10% NaHCO3 and extracted with DCM several times. The organic layer was dried (MgSO4), filtered, and concentrated. Purification by flash chromatography using a 5 g silica gel cartridge, and mixtures of DCM and MeOH as eluent afforded 9 mg (13%) of the expected product as the free base. It was dissolved in MeOH (2 ml). HCl (1M solution in Et2O, 0.02 ml, 0.02 mmol) was added dropwise. After stirring at room temperature for 20 min, the solvent was evaporated. (1R)-1-[(4-{[(5-Chloro-6-methyl-3-pyridinyl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride (92.5 mg, 0.194 mmol, 49%) was obtained as a yellow powder.

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | 0.170 mmol, 63.3 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O
reactant | Et3N | 0.154 mmol, 0.022 ml | CCN(CC)CC | C6H15N
reactant | 5-chloro-6-methyl-3-pyridinecarbaldehyde | ClC=1C=C(C=NC1C)C=O | C7H6ClNO
reactant | NaBH(OAc)3 | 0.463 mmol, 98 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CHCl3 | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | (1R)-1-[(4-{[(5-Chloro-6-methyl-3-pyridinyl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 9 mg, 13% | Cl.ClC=1C=C(C=NC1C)CNC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | InChI=1S/C23H26ClN5O2.ClH/c1-15-20(24)10-16(11-25-15)12-26-18-6-8-27(9-7-18)13-19-14-28-21(30)4-2-17-3-5-22(31)29(19)23(17)28;/h2-5,10-11,18-19,26H,6-9,12-14H2,1H3;1H/t19-;/m1./s1
